US05192749
A solution of 4'-cyano-5'-O-acetylthymidine (0.85 g, 2.76 mM) and NH4OH (15 ml) in CH3OH (15 ml) was stirred at 24° C. for 2 hours. The solvent was removed by evaporation under pump vacuum. The residue was purified by flash chromatography on silica gel eluting with (7% CH3OH/CH2Cl2) and by preparative chromatography TLC affording 4'-cyanothymidine (300 mg, 1.12 mM). mp 238.5° C. to 242.5° C.

reactant | 4'-cyano-5'-O-acetylthymidine | 2.76 mM, 0.85 g | C(#N)[C@]1([C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O)COC(C)=O | C13H15N3O6
reactant | NH4OH | 15 ml | [NH4+].[OH-]
solvent | CH3OH | 15 ml | CO | CH4O
product | 4'-cyanothymidine | 1.12 mM, 300 mg | C(#N)[C@]1([C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O)CO | C11H13N3O5
